US07671043B2
3A. 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid
The title compound was prepared from 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine-2-carbaldehyde by procedures analogous to those described in Examples (1A-1B) for the preparation of 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid.

reactant | 5-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridine-2-carbaldehyde | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)C=O | C18H17N3O2
reactant | 3-({5-[5-(4-isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyrazin-2-ylmethyl}-amino)-cyclobutanecarboxylic acid | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1N=CC(=NC1)CNC1CC(C1)C(=O)O | C22H25N5O3
product | 3-({5-[5-(4-Isobutyl-phenyl)-[1,2,4]oxadiazol-3-yl]-pyridin-2-ylmethyl}-amino)-cis-cyclobutanecarboxylic acid | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1)CN[C@H]1C[C@H](C1)C(=O)O | C23H26N4O3
